US08685975B2
To a −20° C. solution of 4-(4-bromo-3,5-dimethoxyphenyl)oxazole (0.158 g, 0.56 mmol) in anhydrous THF (2 mL) in an oven-dried flask under argon was added a solution of LDA (2.0 M in THF/heptane/ethylbenzene; 0.37 mL, 0.74 mmol) dropwise. The mixture was stirred at −20 to −10° C. for 50 min then cooled to −20° C. A solution of N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide (0.245 g, 0.83 mmol) in anhydrous THF (3 mL) was added then the mixture was allowed to slowly warm to room temperature and stirred for a total of 21 hours. The reaction mixture was quenched with H2O and extracted with EtOAc. The combined organics were washed with brine, dried over Na2SO4 and concentrated. Purification by chromatography (50-60% EtOAc-hexanes) provided 1-(4-(4-bromo-3,5-dimethoxyphenyl)oxazol-2-yl)-2-methoxy-2-(4-morpholinophenyl)-ethanone as a yellow solid (0.097 g, 34% yield). MS: m/z 517.1 [M+H]+.

reactant | 4-(4-bromo-3,5-dimethoxyphenyl)oxazole | 0.56 mmol, 0.158 g | BrC1=C(C=C(C=C1OC)C=1N=COC1)OC | C11H10BrNO3
reactant | LDA | 0.74 mmol, 2.0 M, 0.37 mL | [Li+].CC(C)[N-]C(C)C
reactant | N,2-dimethoxy-N-methyl-2-(4-morpholinophenyl)acetamide | 0.83 mmol, 0.245 g | CON(C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)C | C15H22N2O4
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 1-(4-(4-bromo-3,5-dimethoxyphenyl)oxazol-2-yl)-2-methoxy-2-(4-morpholinophenyl)-ethanone | 0.097 g, 34% yield | BrC1=C(C=C(C=C1OC)C=1N=C(OC1)C(C(C1=CC=C(C=C1)N1CCOCC1)OC)=O)OC | C24H25BrN2O6
